US08383644B2
(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (75 mg) was coupled with (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester according to General Procedure L to give (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester (30 mg). LCMS (m/z): 866.

reactant | (3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 75 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)N)=O | C17H16N2O2
product | (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)[C@H](CC)C3=CC=CC=C3)=O | C51H45Cl2N3O6
